US06503900B2
Following the procedure of Example 5, D-alanine (73.6 mmol) and isatoic anhydride (61.3 mmol) were allowed to reflux in pyridine (50 mL) to give (3R)-3-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (12.7 mmol) as a light brown solid.

reactant | D-alanine | 73.6 mmol | N[C@H](C)C(=O)O | C3H7NO2
reactant | isatoic anhydride | 61.3 mmol | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | (3R)-3-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 12.7 mmol | C[C@@H]1C(NC2=C(C(N1)=O)C=CC=C2)=O | C10H10N2O2
